US04908394
To a mixture of 212.0 g of 2,4-dinitrobenzoic acid in 300 ml of toluene were added 4.0 g of toluenesulfonic acid and 180.2 g of 1-methoxy-2-propanol. The mixture was refluxed for 48 hrs and the resulting water removed by azeotropic distillation. After this period the mixture was cooled to room temperture and washed with 500 ml of an aqueous 5% NaHCO3 solution followed by two 150 ml water washings. The toluene was removed at reduced pressure and the resulting oil was washed with hexane to give 152 g (1-methoxy-2-propyl)-2,4-dinitrobenzoate, a tan solid, mp 42° C.

reactant | 2,4-dinitrobenzoic acid | 212.0 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | 1-methoxy-2-propanol | 180.2 g | COCC(C)O | C4H10O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | toluenesulfonic acid | 4.0 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
product | (1-methoxy-2-propyl)-2,4-dinitrobenzoate | 152 g | COCC(C)OC(C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C11H12N2O7
